* DDR3 signal timing comparison
* Driver -> (optional Rseries) -> Transmission line -> DDR3 input

*** PARAMETERS ***
.param VDDQ = 1.2
.param Z0 = 50
.param TD = 300p       ; 300 ps delay for ~2 inch trace
.param RS = 33

*** DRIVER ***
* Pulse: Vinitial Von Trise Tfall Pulsewidth Period
Vdrv drv 0 PULSE(0 {VDDQ} 0 100p 100p 2n 4n)

* Output buffer (finite drive capability)
Rdriver drv nodeA 10     ; 10 Ω output impedance

*** LINE A: NO SERIES RESISTOR ***
* 50Ω transmission line, 300 ps delay
TlineA nodeA nodeLoadA 0 0 Z0={Z0} TD={TD}

*** LOAD A: DDR3 input (simplified) ***
RloadA nodeLoadA Vref 50
Vref Vref 0 DC {VDDQ/2}

*** LINE B: WITH 33Ω SERIES RESISTOR ***
Rseries nodeA nodeB {RS}
TlineB nodeB nodeLoadB 0 0 Z0={Z0} TD={TD}

*** LOAD B: DDR3 input ***
RloadB nodeLoadB Vref 50

*** PROBES ***
.tran 1p 5n

.control
run
plot nodeLoadA nodeLoadB
.endc

.end

